US08754229B2
To a solution of methyl 4-amino-6-(1-fluoroethyl)-3-methoxypicolinate (0.125 g, 0.548 mmol) in THF (2.74 ml) and MeOH (2.74 ml) was added a 2 N solution of sodium hydroxide (0.822 ml, 1.643 mmol). The reaction mixture was stirred at room temperature (LC monitoring). After 4 h, the reaction mixture was acidified with a 2 N solution of HCl (1 mL) and then concentrated (rotavap). The resulting white solid was dissolved into DMF+a few drops of water and was purified by preparative HPLC (reverse phase, C18 column) to afford 4-amino-6-(1-fluoroethyl)-3-methoxypicolinic acid (98 mg, 0.458 mmol, 84% yield) as an orange solid. ESIMS m/z 213 ([M−H]−); 1H NMR (400 MHz, DMSO) δ 9.06 (s, 1H), 6.82 (s, 1H), 6.47 (s, 2H), 5.49 (dq, J=47.7, 6.3 Hz, 1H), 3.69 (s, 3H), 2.51 (d, J=24.0 Hz, 1H), 1.52 (dd, J=24.5, 6.4 Hz, 3H); 19F NMR (376 MHz, DMSO) δ −171.64.

reactant | methyl 4-amino-6-(1-fluoroethyl)-3-methoxypicolinate | 0.548 mmol, 0.125 g | NC1=C(C(=NC(=C1)C(C)F)C(=O)OC)OC | C10H13FN2O3
reactant | sodium hydroxide | 1.643 mmol, 0.822 ml | [OH-].[Na+]
reactant | HCl | 1 mL | Cl | ClH
solvent | THF | 2.74 ml | C1CCOC1 | C4H8O
solvent | MeOH | 2.74 ml | CO | CH4O
product | 4-amino-6-(1-fluoroethyl)-3-methoxypicolinic acid | 0.458 mmol, 98 mg, 84% yield | NC1=C(C(=NC(=C1)C(C)F)C(=O)O)OC | C9H11FN2O3
